US07855201B2
Step 1: methyl 3-methoxypyrazine-2-carboxylate
To a solution of 2 g of methyl 3-bromopyrazine-2-carboxylate (prepared as described by J. H. Jones, W. H. Holtz, E. J. C. Cragoe, J. Med. Chem., 1969, 12, 285-287) in 50 mL of methanol was added 4 mL of 30% NaOMe in methanol. After stirring 30 min the reaction was quenched with 6 mL of acetic acid and concentrated under reduced pressure. The residue was partitioned between 50 mL ethyl acetate and 50 mL saturated NaHCO3, the extract dried over MgSO4. Concentration under reduced pressure gave a white crystalline solid: MS (m+1)=169.1; 1H NMR (400 MHz, CDCl3) 8.3 (m, 2H), 4.1 (s, 3H), 4.0 (s, 3H).

reactant | methyl 3-bromopyrazine-2-carboxylate | 2 g | BrC=1C(=NC=CN1)C(=O)OC | C6H5BrN2O2
reactant | NaOMe | 4 mL | C[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | methyl 3-methoxypyrazine-2-carboxylate | COC=1C(=NC=CN1)C(=O)OC | C7H8N2O3
